US03987047
1,2,4,5-Tetrahydro-5-hydroxy-11-methyl-3H-azepino[4,5-b]quinoline dihydrochloride was prepared from 5-(ethoxycarbonyloxy)-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester by hydrolysis with 2 N hydrochloric acid for 36 hours at the boiling point. After distilling off the hydrochloric acid, the remaining water was removed by entrainment with benzene, and the raw salt was recrystallized from methanol.

reactant | 5-(ethoxycarbonyloxy)-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CC(C2=NC=3C=CC=CC3C(=C2CC1)C)OC(=O)OCC | C20H24N2O5
reactant | hydrochloric acid | 2 N | Cl | ClH
product | 1,2,4,5-Tetrahydro-5-hydroxy-11-methyl-3H-azepino[4,5-b]quinoline dihydrochloride | Yield: 68% | Cl.Cl.OC1CNCCC=2C1=NC=1C=CC=CC1C2C | InChI=1S/C14H16N2O.2ClH/c1-9-10-4-2-3-5-12(10)16-14-11(9)6-7-15-8-13(14)17;;/h2-5,13,15,17H,6-8H2,1H3;2*1H
